Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ Flexible bronchoscopy with radial endobronchial 
ultrasound and transbronchial biopsy, brush fine needle 
aspiration, and bronchial lavage
___ Placement of right-sided pigtail catheter
___ Removal of right-sided pigtail catheter 

attach
 
Pertinent Results:
ADMISSION LABS:
================
- None

DISCHARGE LABS:
==================
___ 06:24AM BLOOD WBC-3.2* RBC-4.01* Hgb-12.2* Hct-37.1* 
MCV-93 MCH-30.4 MCHC-32.9 RDW-12.9 RDWSD-43.6 Plt ___
___ 06:24AM BLOOD ___ PTT-30.6 ___
___ 06:24AM BLOOD Glucose-80 UreaN-13 Creat-1.1 Na-143 
K-3.7 Cl-106 HCO3-25 AnGap-12
___ 06:24AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.9

MICROBIOLOGY:
================
___ 10:37 am BRONCHOALVEOLAR LAVAGE     Site: MIDDLE LOBE
      RML. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

IMAGING:
==========
- ___ CXR
1.  Right chest tube, with interval expansion of the right lung. 
 No new
pneumothorax.
2.  Mildly enlarged cardiac silhouette, unchanged.

- ___ CXR
Comparison to ___.  Stable correct position of the 
right pigtail catheter.  No evidence of pneumothorax on the 
right.  Stable appearance of the left lung.
 
Brief Hospital Course:
Mr. ___ is an ___ year-old ___ speaking man with 
history of meningioma s/p near-total resection and radiation and 
pulmonary nodules, who was admitted for monitoring after 
undergoing ___ biopsy, procedure complicated by R 
pneumothorax requiring chest tube placement, ultimately with 
resolution of pneumothorax and discontinuation of chest tube 
prior to discharge.  
 
ACUTE ISSUES  
============  
# Right-sided pneumothorax  
Developed as complication of lung nodule biopsy. Underwent chest 
tube placement in PACU then admitted to medicine for monitoring. 
Serial CXRs with resolution of pneumothorax, and chest tube 
removed by interventional pulmonary prior to discharge. Pain 
controlled with Tylenol alone.

CHRONIC ISSUES:  
============-==  
# HTN: Continued home Losartan 25mg daily  

# BPH: Continued home Finasteride 5mg qhs

# Cataracts s/p Surgery: Continued home Latanoprost, Timlolol 
eye drops. Home Lumify NF so held and resumed on discharge. 
 
TRANSITIONAL ISSUES:
====================
[] BAL with 1+ GPRs on gram stain (culture pending) - patient 
asymptomatic without hypoxia or active pulmonary symptoms, so 
treatment deferred, but please follow-up pending culture results 

[] Follow-up pending biopsy results

# Code Status: Full, presumed  
# Emergency Contact: Daughter, ___ (___)  

>30 minutes spent on discharge planning and coordination of care

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Finasteride 5 mg PO QHS 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Losartan Potassium 25 mg PO DAILY 
4. Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY 
5. brimonidine 0.025 % ophthalmic (eye) BID 

 
Discharge Medications:
1.  brimonidine 0.025 % ophthalmic (eye) BID  
2.  Finasteride 5 mg PO QHS  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Losartan Potassium 25 mg PO DAILY  
5.  Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Right pneumothorax

SECONDARY DIAGNOSIS:
=====================
Pulmonary nodule
Meningioma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for monitoring after getting a 
nodule in your lung biopsied.

As a complication of your lung biopsy, you developed air around 
your lung (called a pneumothorax) that required a tube to be 
placed in your chest to help get the air out. You had chest 
x-rays that showed the air resolved, and the chest tube was 
removed. 

When you leave the hospital, please continue taking all your 
medications as prescribed and follow-up with your doctors ___ 
below for appointment information). 

It was a privilege caring for you, and we wish you well!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___